US08802679B2
Under an argon atmosphere, 1-(4-iodophenyl)azepane (200 mg) and triisopropylborate (162 mg) were dissolved in THF (2 ml), followed by cooling to −78° C. A 1.59 M butyl lithium/hexane solution (0.5 ml) was added thereto, followed by elevating the temperature to 0° C. over 1 hour, and further stirring at the same temperature for 1 hour. To the reaction mixture was added a saturated aqueous ammonium chloride solution, followed by extraction with EtOAc. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH) to obtain (4-azepan-1-ylphenyl)boronic acid (52 mg).

reactant | 1-(4-iodophenyl)azepane | 200 mg | IC1=CC=C(C=C1)N1CCCCCC1 | C12H16IN
reactant | triisopropylborate | 162 mg | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | butyl lithium hexane | 1.59 M, 0.5 ml | C(CCC)[Li].CCCCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (4-azepan-1-ylphenyl)boronic acid | 52 mg | N1(CCCCCC1)C1=CC=C(C=C1)B(O)O | C12H18BNO2
